US07875745B2
(±)-methyl2-[4-({(1S*)-1-[(R*)-(3,5-dimethoxy-4-methylphenyl)(methoxymethoxy)methyl]-4-phenylbutyl}oxy)phenoxy]-4-methylbenzoate
To a tetrahydrofuran (4 ml) solution of (±)-(1R*,2R*)-1-(3,5-dimethoxy-4-methylphenyl)-1-(methoxymethoxy)-5-phenylpentan-2-ol (142 mg) and methyl2-(4-hydroxyphenoxy)-4-methylbenzoate (249 mg), triphenylphosphine (262 mg) and diethyl azodicarboxylate (0.47 ml) were added, followed by stirring at room temperature overnight. The reaction mixture was concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain the title compound (128 mg) having the following physical properties.

reactant | (±)-(1R*,2R*)-1-(3,5-dimethoxy-4-methylphenyl)-1-(methoxymethoxy)-5-phenylpentan-2-ol | 142 mg | COC=1C=C(C=C(C1C)OC)[C@H]([C@@H](CCCC1=CC=CC=C1)O)OCOC | C22H30O5
reactant | methyl2-(4-hydroxyphenoxy)-4-methylbenzoate | 249 mg | COC(C1=C(C=C(C=C1)C)OC1=CC=C(C=C1)O)=O | C15H14O4
reactant | triphenylphosphine | 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.47 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (±)-methyl2-[4-({(1S*)-1-[(R*)-(3,5-dimethoxy-4-methylphenyl)(methoxymethoxy)methyl]-4-phenylbutyl}oxy)phenoxy]-4-methylbenzoate | 128 mg | COC(C1=C(C=C(C=C1)C)OC1=CC=C(C=C1)O[C@@H](CCCC1=CC=CC=C1)[C@H](OCOC)C1=CC(=C(C(=C1)OC)C)OC)=O | C37H42O8
